US05284852
2-Butyl-6-(1-hydroxy-1-methylethyl)-4(1H)-quinazolinone
To a solution of 4.00 g of 6-acetyl-2-butyl-4-(1H)-quinazolinone in 250 ml of dry tetrahydrofuran, cooled to 0° C., is added dropwise 16.4 ml of 3.0M methylmagnesium bromide in diethyl ether. The reaction is stirred at 0° C. for 0.5 hours and then allowed to warm to room temperature followed by quenching with 100 ml of saturated ammonium chloride solution. The mixture is diluted with 50 ml of water and extracted with ethyl acetate. The combined organic layers are washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue is purified by flash chromatography on silica gel, eluting with 100:0.25 chloroform-methanol to give 2.75 g of the desired product as a white solid. CI MASS SPEC 261(MH+).

reactant | 6-acetyl-2-butyl-4-(1H)-quinazolinone | 4.00 g | C(C)(=O)C=1C=C2C(N=C(NC2=CC1)CCCC)=O | C14H16N2O2
reactant | methylmagnesium bromide | 3.0M, 16.4 ml | C[Mg]Br
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-Butyl-6-(1-hydroxy-1-methylethyl)-4(1H)-quinazolinone | 2.75 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)C(C)(C)O | C15H20N2O2
